US05470878
A solution of 1-(8-nonenyl)-3,7-dimethylxanthine (810 mg, 2.7 mmol), 4-methylmorpholine-N-oxide (340 mg, 2.9 mmol) and 2.5% osmium tetroxide in t-butanol (3 drops) in acetone (20 ml) and water (20 ml) was stirred for 24 hours. Saturated aqueous sodium dithionite solution (5 ml) was added. After stirring for 15 minutes, the reaction was extracted with 25% ethanol-dichloromethane (4×50 ml). The combined organic phases were dried over sodium sulfate and the solvents evaporated under vacuum. The solid residue was recrystallized (ethanol-chloroform) to give 1-(8,9-Dihydroxynonyl)-3,7-dimethylxanthine (490 mg, 54% yield).

reactant | 1-(8-nonenyl)-3,7-dimethylxanthine | 2.7 mmol, 810 mg | C(CCCCCCC=C)N1C(=O)N(C=2N=CN(C2C1=O)C)C | C16H24N4O2
reactant | 4-methylmorpholine-N-oxide | 2.9 mmol, 340 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | water | 20 ml | O | H2O
reactant | sodium dithionite | 5 ml | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
catalyst | t-butanol | 3 drops | C(C)(C)(C)O | C4H10O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | 1-(8,9-Dihydroxynonyl)-3,7-dimethylxanthine | 490 mg, 54% yield | OC(CCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CO | C16H26N4O4
